US05189049
N-[4-(2,4,6-Trimethylphenyl)-2-thiazolyl]indoline-2-carboxamide
35 g of N-[4-(2,4,6-trimethylphenyl)-2-thiazolyl]-1-tert-butoxycarbonyl-indoline-2-carboxamide are dissolved in 200 ml of dry dichloromethane and 40 ml of trifluoroacetic acid are added dropwise. The reaction mixture is kept at ambient temperature for 2 hours and then evaporated to dryness. The residue obtained is taken up in 150 ml of ethyl acetate. The organic solution is washed with 1N aqueous sodium hydroxide solution and then with water saturated with NaCl and dried over anhydrous magnesium sulphate. After removal of the ethyl acetate, the final product is obtained, from which the salt is prepared by the action of gaseous HCl in isopropanol. The hydrochloride melts at 212° C. Yield 88%. Salt: 1H NMR: 80 MHz(DMSOd6) δ(ppm): 2.1(s,6H); 2.4(s,3H); 3.2-3.8(m,2H); 5.0(m,1H); 6.0(s,1H; 6.9-7.6(m,7H); 12.1(s,1H).

reactant | N-[4-(2,4,6-trimethylphenyl)-2-thiazolyl]-1-tert-butoxycarbonyl-indoline-2-carboxamide | 35 g | CC1=C(C(=CC(=C1)C)C)C=1N=C(SC1)NC(=O)C1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C26H29N3O3S
reactant | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-[4-(2,4,6-Trimethylphenyl)-2-thiazolyl]indoline-2-carboxamide | Yield 88% | CC1=C(C(=CC(=C1)C)C)C=1N=C(SC1)NC(=O)C1NC2=CC=CC=C2C1 | C21H21N3OS
